US05508293
Preparation of N-Cyano-N'-(2-nitroxyethyl)-5-isopropylamino-3-pyridinecarboximidamide
To a solution of 2-nitroxyethylamine hydrochloride (95 mg, 0.67 mmol) in DMF (1 ml) was added sodium methoxide (25 mg, 0.46 mmol) followed by a solution of propyl N-cyano-5-isopropylamino-3-pyridinecarboximidate (80 mg, 0.33 mmol) described in Example 11 of Experimental Example 1 in DMF (1 ml), and the mixture was stirred at room temperature for 3 hours. After the reaction was completed, the reaction mixture was concentrated to dryness under reduced pressure. The residue was suspended in water and extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography with a mixed solvent of methanol and chloroform as an eluent to give the title compound (26 mg, yield 27%) as colorless crystals.

reactant | 2-nitroxyethylamine hydrochloride | 0.67 mmol, 95 mg | Cl.O([N+](=O)[O-])CCN
reactant | sodium methoxide | 0.46 mmol, 25 mg | C[O-].[Na+]
reactant | propyl N-cyano-5-isopropylamino-3-pyridinecarboximidate | 0.33 mmol, 80 mg | C(#N)N=C(OCCC)C=1C=NC=C(C1)NC(C)C | C13H18N4O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-Cyano-N'-(2-nitroxyethyl)-5-isopropylamino-3-pyridinecarboximidamide | 26 mg, yield 27% | C(#N)NC(=NCCO[N+](=O)[O-])C=1C=NC=C(C1)NC(C)C | C12H16N6O3
